US05166367
7-[3-[[(2,3-Dihydro-7-hydroxy-1,4-benzodioxin-2-yl)methyl]ethylamino]propoxy]-2H-1-benzopyran-2-one
N-Ethyl-2,3-dihydro-7-hydroxy-1,4-benzodioxin-2-methanamine (2.11 g, 13.1 mmole), 7-(3-chloropropoxy)coumarin (3.44 g, 14.4 mmole), diisopropylethylamine (11 ml, 63.2 mmole) and sodium iodide (1.98 g, 13.2 mmole) were combined in 175 ml of DMF and heated at 94° C. for 2 days under a nitrogen atmosphere. The solvent was then removed in vacuum and the residue column chromatographed on silica gel using first 0.5% methanol/dichloromethane and then 1.5% methanol/dichloromethane as eluant. The product-containing fractions were combined and concentrated in vacuum and the residue redissolved in dichloromethane and boiled on a hot plate, the dichloromethane gradually being replaced with isopropanol. 4N HCl/isopropanol (4 ml) was added and the title compound was collected by filtration. A second recrystallization from isopropanol yielded 0.73 g of white solid, monohydrochloride, m.p. 208°-215° C.

reactant | N-Ethyl-2,3-dihydro-7-hydroxy-1,4-benzodioxin-2-methanamine | 13.1 mmole, 2.11 g | C(C)NCC1COC2=C(O1)C=C(C=C2)O | C11H15NO3
reactant | 7-(3-chloropropoxy)coumarin | 14.4 mmole, 3.44 g | ClCCCOC1=CC=C2C=CC(OC2=C1)=O | C12H11ClO3
reactant | diisopropylethylamine | 63.2 mmole, 11 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 13.2 mmole, 1.98 g | [I-].[Na+]
solvent | DMF | 175 ml | CN(C)C=O | C3H7NO
product | 7-[3-[[(2,3-Dihydro-7-hydroxy-1,4-benzodioxin-2-yl)methyl]ethylamino]propoxy]-2H-1-benzopyran-2-one | 0.73 g | OC=1C=CC2=C(OC(CO2)CN(CCCOC2=CC3=C(C=CC(O3)=O)C=C2)CC)C1 | C23H25NO6
